US07666848B2
c) 4,5-Diacetoxy-6-acetoxymethyl-2-(2-formyl-thiophen-3-yloxy)-tetrahydropyran-3-yl acetate
3.81 g of 3-hydroxy-thiophene-2-carbaldehyde, 30.5 g of (4,5-diacetoxy-6-acetoxymethyl-2-[5-isopropyl-2-(4-methoxy-benzoyl)-thiophen-3-yloxy]-tetrahydro-pyran-3-yl) actate, 37.0 g of potassium carbonate and 9.2 g of benzyltributylammonium chloride were dissolved in 850 ml of dichloromethane. 7.5 ml of water were added, and the reaction mixture was stirred for 60 h. The solution was extraced with water and saturated sodium chloride solution, and the organic phase was dried over sodium sulfate and evaporated. 60 ml of ethanol:water (9:1) were added to the resulting brownish foam, and the resulting fine precipitate was filtered off with suction. The product with the molecular weight: 458.44 (C19H22O11S), MS (ESI): 476 (M+NH4+) was obtained.

reactant | 3-hydroxy-thiophene-2-carbaldehyde | 3.81 g | OC1=C(SC=C1)C=O | C5H4O2S
reactant | (4,5-diacetoxy-6-acetoxymethyl-2-[5-isopropyl-2-(4-methoxy-benzoyl)-thiophen-3-yloxy]-tetrahydro-pyran-3-yl) actate | 30.5 g | C(C)(=O)OC1C(OC(C(C1OC(C)=O)OC(C)=O)COC(C)=O)OC1=C(SC(=C1)C(C)C)C(C1=CC=C(C=C1)OC)=O | C29H34O12S
reactant | potassium carbonate | 37.0 g | C([O-])([O-])=O.[K+].[K+]
reactant | sodium chloride | [Cl-].[Na+]
catalyst | benzyltributylammonium chloride | 9.2 g | [Cl-].C(C1=CC=CC=C1)[N+](CCCC)(CCCC)CCCC
solvent | dichloromethane | 850 ml | ClCCl | CH2Cl2
solvent | water | O | H2O
solvent | water | 7.5 ml | O | H2O
product | 4,5-Diacetoxy-6-acetoxymethyl-2-(2-formyl-thiophen-3-yloxy)-tetrahydropyran-3-yl acetate | C(C)(=O)OC1C(OC(C(C1OC(C)=O)OC(C)=O)COC(C)=O)OC1=C(SC=C1)C=O | C19H22O11S
